US09108928B2
Under the nitrogen atmosphere, 1.5 g of 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate prepared according to the method of Reference Example 2 was added to 18 mL of 0.45 mol/L hydrochloric acid and dissolved therein by heating to 50° C. At 50° C., 6 mL aqueous solution containing 3.5 g of sodium malate was added dropwise thereto. pH of the reaction mixture was 2.6. The reaction mixture was cooled to room temperature. The crystal was collected by filtration and then washed with a mixture liquid containing 1.5 mL of acetone and 3.0 mL of water followed by 4.5 mL of acetone to give 0.89 g of 5-hydroxy-1H-imidazole-4-carboxamide.3/4 hydrate as a pale yellow crystal. The infrared absorption spectrum (ATR method) corresponds to that of Example 4.

reactant | 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate | 1.5 g | O.O.Cl.OC1=C(N=CN1)C(=O)N
reactant | hydrochloric acid | 0.45 mol/L, 18 mL | Cl | ClH
reactant | sodium malate | 3.5 g | C(C(O)CC(=O)[O-])(=O)[O-].[Na+].[Na+]
product | 5-hydroxy-1H-imidazole-4-carboxamide | 0.89 g | OC1=C(N=CN1)C(=O)N | C4H5N3O2
